US07087594B2
In 5 mL of dimethyl sulfoxide was dissolved 1.00 g of 3-[2-(3-chloropropoxy)ethyl]-1-benzothiophene, and 1.10 g of 3-azetidinol trifluoroacetate and 1.63 g of potassium carbonate were added to the solution, after which the resulting mixture was stirred at 70° C. for 2 hours. After the reaction mixture was cooled, water and ethyl acetate were added thereto and the pH was adjusted to 1 with 6 mol/L hydrochloric acid, and the aqueous layer was separated. Ethyl acetate was added to the aqueous layer and the pH was adjusted to 10 with a 2 mol/L aqueous sodium hydroxide solution, after which the organic layer was separated. The organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; chloroform:methanol=30:1 to 10:1) to obtain 0.55 g of 1-{3-[2-(1-benzothiophen-3-yl)ethoxy]propyl}-3-azetidinol as a colorless oil.

reactant | 3-[2-(3-chloropropoxy)ethyl]-1-benzothiophene | 1.00 g | ClCCCOCCC1=CSC2=C1C=CC=C2 | C13H15ClOS
reactant | 3-azetidinol trifluoroacetate | 1.10 g | FC(C(=O)O)(F)F.N1CC(C1)O
reactant | potassium carbonate | 1.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-{3-[2-(1-benzothiophen-3-yl)ethoxy]propyl}-3-azetidinol | 0.55 g | S1C=C(C2=C1C=CC=C2)CCOCCCN2CC(C2)O | C16H21NO2S
